US04276417
75 g. of 2,4-diamino-6-diallylamino-s-triazine-3-oxide are suspended in 800 ml. of methylene chloride and cooled while stirring to 0° C. At this temperature there are then simultaneously added dropwise within 45 minutes 180 ml. of 20% phosgene in toluene and sufficient 10% sodium hydroxide to hold the pH at 7-7.5. The mixture is subsequently stirred for a further 1 hour. Methylene chloride and methanol are then added in order to dissolve the precipitated product. The two phases are separated and the aqueous phase is extracted twice with methylene chloride. The combined organic extracts are dried over magnesium sulfate and evaporated under reduced pressure, there being obtained 7-amino-5-diallylamino-2H-[1,2,4]oxadiazolo[2,3-a]-s-triazin-2-one, having a melting point of 211°-213° C.

reactant | 2,4-diamino-6-diallylamino-s-triazine-3-oxide | NC1=NC(=NC(=[N+]1[O-])N)N(CC=C)CC=C | C9H14N6O
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | methanol | CO | CH4O
product | 7-amino-5-diallylamino-2H-[1,2,4]oxadiazolo[2,3-a]-s-triazin-2-one | NC1=NC(=NC=2N1OC(N2)=O)N(CC=C)CC=C | C10H12N6O2
